US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and ethyl phosphonic dichloride. The reaction of the dilithio compound and the ethyl phosphonic dichloride was conducted at -76° C. to yield 1-ethyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.45 g, 6% yield) as a pale yellow solid having a melting point of 116°-120° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | ethyl phosphonic dichloride | C(C)P(=O)(Cl)Cl | C2H5Cl2OP
product | 1-ethyl-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.45 g, 6% yield | C(C)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C15H16NOP
